US05491170
Sulfoacetic acid (52 g, 371 mM) and EtOH (500 mL) were heated under reflux for 20 hours. The reaction mixture was cooled, and the excess ethanol was removed under vacuum to give ethyl sulfoacetate.

reactant | Sulfoacetic acid | 371 mM, 52 g | S(=O)(=O)(O)CC(=O)O | C2H4O5S
reactant | EtOH | 500 mL | CCO | C2H6O
product | ethyl sulfoacetate | S(=O)(=O)(O)CC(=O)OCC | C4H8O5S
